US08067459B2
Synthesis of 2-[(pyridin-3-yloxy)methyl]-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione (Compound 17)
To a solution of 2-(hydroxymethyl)-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione (0.35 g, 1.34 mmol) in tetrahydrofuran (10.0 mL) was added triphenylphosphine (1.4 g, 5.34 mmol) and pyridin-3-ol (0.507 g, 5.34 mmol) followed by diethyl (Z)-diazene-1,2-dicarboxylate (0.53 mL, 3.34 mmol). The reaction mixture was stirred at room temperature for 8 hours. The reaction was quenched by addition of water (30 mL). The aqueous layer was extracted with dichloromethane (2×20 mL). The organic extracts were combined and extracted thrice with 1.0N HCl (10 mL). The HCl extracts were combined and its pH adjusted to 9 with a saturated sodium carbonate solution. The aqueous layer was extracted with dichloromethane (2×20 mL), extracts combined, dried with sodium sulfate and concentrated under reduced pressure. The crude mixture was purified by flash column chromatography (SiO2, 50% EtOAc in hexanes to 80% EtOAc in hexanes) to give the product as a purple solid (0.065 g, 14%). M.p.=153-155° C.; 400 MHz 1H NMR (CDCl3) δ: 8.43-8.35 (m, 1H), 8.33-8.24 (m, 1H), 8.05-7.94 (m, 1H), 7.72-7.56 (m, 2H), 7.56-7.4 (m, 2H), 7.33-7.2 (m, 1H), 4.98-4.86 (m, 1H), 4.54-4.34 (m, 2H), 3.34-3.16 (m, 2H); LCMS: 340 [M+H].

reactant | 2-(hydroxymethyl)-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione | 1.34 mmol, 0.35 g | OCC1CSC2=C(O1)C1=CC=CC=C1C(C2=O)=O | C13H10O4S
reactant | triphenylphosphine | 5.34 mmol, 1.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridin-3-ol | 5.34 mmol, 0.507 g | N1=CC(=CC=C1)O | C5H5NO
reactant | diethyl (Z)-diazene-1,2-dicarboxylate | 3.34 mmol, 0.53 mL | N(=N/C(=O)OCC)/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
product | 2-[(pyridin-3-yloxy)methyl]-2,3-dihydronaphtho[1,2-b][1,4]oxathiine-5,6-dione | 0.065 g, 14% | N1=CC(=CC=C1)OCC1CSC2=C(O1)C1=CC=CC=C1C(C2=O)=O | C18H13NO4S
